US04255429
The starting material is prepared as follows: The mixture of 68.6 g of 2-methyl-2-phenylsuccinic anhydride, 34 g of 4-aminopyridine and 675 ml of xylene is refluxed on a water separator while stirring for 7 hours. It is cooled to 40°, filtered, cooled to 0° and filtered again. The second residue is recrystallized from isopropanol-hexane, to yield the 3-methyl-3-phenyl-1-(4-pyridyl)-pyrrolidin-2,5-dione melting at 90°-92°.

reactant | 2-methyl-2-phenylsuccinic anhydride | 68.6 g | CC1(C(=O)OC(C1)=O)C1=CC=CC=C1 | C11H10O3
reactant | 4-aminopyridine | 34 g | NC1=CC=NC=C1 | C5H6N2
reactant | xylene | 675 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 3-methyl-3-phenyl-1-(4-pyridyl)-pyrrolidin-2,5-dione | CC1(C(N(C(C1)=O)C1=CC=NC=C1)=O)C1=CC=CC=C1 | C16H14N2O2
